US06461876B1
(b). Synthesis of 2,4-Diphenyl bicyclo[3.3.1]non-2-ene-9one (77)
Into a 1 L round bottom flask fifteen parts of 2-(α-phenyl-β-benzoylethyl)-cyclohexanone, 500 ml acetic acid and 100 mL of concentrated hydrochloric acid was added. Reaction mixture was heated under reflux for 45 hours. The hot reaction mixture was diluted with 250 ml of water (reaction mixture was cloudy). The reaction mixture was cool to room temperature to give a white solid which was filtered and dried under vacuum, to yield 11.75 g of product. The reaction proceeded as follows:

reactant | 2-(α-phenyl-β-benzoylethyl)-cyclohexanone | C1(=CC=CC=C1)C(CC(C1=CC=CC=C1)=O)C1C(CCCC1)=O | C21H22O2
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 2,4-Diphenyl bicyclo[3.3.1]non-2-ene-9one | 11.75 g | C1(=CC=CC=C1)C=1C2CCCC(C(C1)C1=CC=CC=C1)C2=O | C21H20O
